US07741315B2
Step 4: 11-(4-Fluorobenzyl)-9-hydroxy-2-methyl-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione
A solution of 11-(4-fluorobenzyl)-9-methoxy-2-methyl-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione (27 mg, 0.07 mmol) in 30% hydrobromide in acetic acid was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under vacuum. The residue was concentrated from a solution in toluene twice. The resultant solid was triturated with a mixture of diethyl ether and dichloromethane to provide the title compound.

reactant | 11-(4-fluorobenzyl)-9-methoxy-2-methyl-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | 0.07 mmol, 27 mg | FC1=CC=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCCC4)C)=O)=O)OC)=O)C=C1 | C22H24FN3O4
solvent | hydrobromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 11-(4-Fluorobenzyl)-9-hydroxy-2-methyl-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | FC1=CC=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCCC4)C)=O)=O)O)=O)C=C1 | C21H22FN3O4
